US06348032B1
N-benzenesulfonyl-4-acetylamino-3-(2,4-difluorobenzylamino)benzamide (0.370 g) is added to a mixture solvent of 10% hydrochloric acid (3.3 g), methanol (6 ml), and water (4 ml). Furthermore, 35% hydrochloric acid (0.5 g) is added and the solution is stirred for three hours at 60° C. After 20% potassium bicarbonate aqueous solution is added to turn the reaction solution into a basic, its acidity is adjusted to pH 5˜6 with 10% hydrochloric acid. Precipitated crystals are separated through filtration, dried and thus, 0.182 g of 6-benzenesulfonylcarbamoyl-1-(2,4-difluorobenzyl)-2-methyl-benzimidazole is obtained. 1H-NMR (DMSO-d6, δ): 2.53 (3H, s), 5.56 (2H, s), 6.95-7.01 (1H, m), 7.04 (1H, dt, J=8.7 and 1.4 Hz), 7.32 (1H, dt, J=10.7 and 2.1 Hz), 7.59-7.66 (3H, m), 7.68-7.74 (2H, m), 8.00 (2H, d, J=8.1 Hz), 8.13 (1H, s), 12.43 (1H, s).

reactant | N-benzenesulfonyl-4-acetylamino-3-(2,4-difluorobenzylamino)benzamide | 0.370 g | C1(=CC=CC=C1)S(=O)(=O)NC(C1=CC(=C(C=C1)NC(C)=O)NCC1=C(C=C(C=C1)F)F)=O | C22H19F2N3O4S
reactant | hydrochloric acid | 3.3 g | Cl | ClH
reactant | methanol | 6 ml | CO | CH4O
reactant | hydrochloric acid | 0.5 g | Cl | ClH
reactant | potassium bicarbonate | C([O-])(O)=O.[K+]
solvent | water | 4 ml | O | H2O
product | 6-benzenesulfonylcarbamoyl-1-(2,4-difluorobenzyl)-2-methyl-benzimidazole | 0.182 g | C1(=CC=CC=C1)S(=O)(=O)NC(=O)C=1C=CC2=C(N(C(=N2)C)CC2=C(C=C(C=C2)F)F)C1 | C22H17F2N3O3S
